US08198287B2
3.3 (+/−)2-(4-oxo-2-pyrimidin-4-yl-4,6,7,8,9,10-hexahydropyrimido[1,2-a]azepin-10-yl)-1H-isoindole-1,3(2H)-dione
By analogy with the method described in example 1 (step 1.3), using ethyl 3-(4-pyrimidinyl)-3-oxopropionate (prepared by analogy to the method described in patent DE 2705582) in place of ethyl 3-(pyridin-4-yl)-3-oxopropionate and using 2-(2-iminoazepan-3-yl)-1H-isoindole-1,3(2H)-dione hydrochloride (1:1), the compound was obtained as a white powder.

reactant | ethyl 3-(4-pyrimidinyl)-3-oxopropionate | N1=CN=C(C=C1)C(CC(=O)OCC)=O | C9H10N2O3
reactant | ethyl 3-(pyridin-4-yl)-3-oxopropionate | N1=CC=C(C=C1)C(CC(=O)OCC)=O | C10H11NO3
reactant | 2-(2-iminoazepan-3-yl)-1H-isoindole-1,3(2H)-dione hydrochloride | Cl.N=C1NCCCCC1N1C(C2=CC=CC=C2C1=O)=O
product | (+/−)2-(4-oxo-2-pyrimidin-4-yl-4,6,7,8,9,10-hexahydropyrimido[1,2-a]azepin-10-yl)-1H-isoindole-1,3(2H)-dione | O=C1C=C(N=C2N1CCCCC2N2C(C1=CC=CC=C1C2=O)=O)C2=NC=NC=C2 | C21H17N5O3
